US07569518B2
1.75 g of 5-(3,4-dichlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one and 6 ml of phosphorus oxychloride were mixed and stirred at 110° C. for 1 hour. There action mixture was allowed to cool down to room temperature and concentrated under reduced pressure. To the residue was added ethyl acetate and ice water, and was separated to two layer. The organic layer was washed sequentially with water and saturated brine, and dried over anhydrous sodium sulfate, then, concentrated under reduced pressure to obtain 1.80 g of 3-chloro-5-(3,4-dichlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)pyridazine (hereinafter, referred to as compound (xxiii) of the present invention).

reactant | 5-(3,4-dichlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one | 1.75 g | ClC=1C=C(C=CC1Cl)C1=C(C(NN=C1C)=O)C1=C(C=C(C=C1F)F)F | C17H9Cl2F3N2O
reactant | phosphorus oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-5-(3,4-dichlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)pyridazine | 1.80 g | ClC=1N=NC(=C(C1C1=C(C=C(C=C1F)F)F)C1=CC(=C(C=C1)Cl)Cl)C | C17H8Cl3F3N2
